US05076973
In one practice of the present invention, triethylamine and diethyl phosphorocyanidate ("DEPC") are added to S-proline methyl ester and N-t-Boc-L-valine in 1,2-dimethoxyethane at 0° C. After holding for one hour at 0° C., the mixture is allowed to warm to room temperature ("RT") over 4 hours and diluted with ethyl acetate. The diluted mixture is then washed with 5% HCl followed by sodium hydrogen carbonate followed with saturated brine. The solvent is then removed by vacuum (in vacuo) to yield N-t-Boc-L-Val-L-Pro-OMe as a colorless syrup.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diethyl phosphorocyanidate | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | N-t-Boc-L-valine | CC(C)[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-Boc-L-Val-L-Pro-OMe | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OC(C)(C)C | C16H28N2O5
